US04267171
To a solution of 5-(3-cyanopropen-1-yl)cytidine (0.73 mmol) and 20 ml methanol in a 250 ml hydrogenation flask is added 25 mg of 10% Pd/C. The system is evacuated, repressurized with two atmospheres hydrogen gas and then stirred at room temperature. After about two hours, the system is evacuated and the resulting black suspension removed by filtration. The colorless methanolic filtrate is evaporated to dryness affording a white amorphous solid. Recrystallization of the solid from acetonitrile or water, or column chromatography on molecular exclusion resin (such as Bio-Gel P-2) gives 5-(3-cyanoprop-1-yl)cytidine as a white amorphous solid; decomposes upon heating; UV λmaxH2O 278 nm (ε8400), λminH2O 254 nm (ε4700); 1H NMR (D2O) δ:7.72 (s,1), 5.95 (narrow m,1), 4.3 (m,3), 3.92 (narrow m,2), 2.3 (broad m,4), 1.5 (m,2).

reactant | 5-(3-cyanopropen-1-yl)cytidine | 0.73 mmol | C(#N)CC=CC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N | C13H16N4O5
catalyst | Pd/C | 25 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 5-(3-cyanoprop-1-yl)cytidine | C(#N)CCCC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N | C13H18N4O5
